US08865894B2
Step 22.3: (3aR*,6R*,6aR*)-6-((tert-Butyldimethylsilyl)oxy)hexahydro-2H-cyclopenta[d]oxazol-2-one
To a suspension of (3aR*,6R*,6aR*)-6-((tert-butyldimethylsilyl)oxy)-3-((2-nitrophenyl)sulfonyl)-hexahydro-2H-cyclopenta[d]oxazol-2-one (1.47 g, 3.32 mmol) and Cs2CO3 (2.164 g, 6.64 mmol) in DMF (25 mL) was added N-acetyl-L-cysteine (0.921 g, 5.65 mmol) and the reaction mixture was stirred for 16 h at RT. The reaction mixture was evaporated and the residue suspended in saturated NaHCO3 solution and extracted with EtOAc. Combined extracts were washed with brine, dried over MgSO4, filtered and concentrated. The title compound was obtained after purification by flash chromatography (heptane/EtOAc 90:10→50:50) as a yellow oil (0.84 g, 98%): TLC (heptane/EtOAc 1:1) Rf=0.28.

reactant | (3aR*,6R*,6aR*)-6-((tert-butyldimethylsilyl)oxy)-3-((2-nitrophenyl)sulfonyl)-hexahydro-2H-cyclopenta[d]oxazol-2-one | 3.32 mmol, 1.47 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H]2N(C(O[C@H]21)=O)S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-] | C18H26N2O7SSi
reactant | Cs2CO3 | 6.64 mmol, 2.164 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | N-acetyl-L-cysteine | 5.65 mmol, 0.921 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | (3aR*,6R*,6aR*)-6-((tert-Butyldimethylsilyl)oxy)hexahydro-2H-cyclopenta[d]oxazol-2-one | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H]2NC(O[C@H]21)=O | C12H23NO3Si
